US08110681B2
A mixture of methyl 2-((2-bromo-4-(1-tert-butoxy-1-oxopropan-2-yl)phenylamino)methyl)benzoate (4.57 g, 10.2 mmol), lithium hydroxide (0.733 g, 30.6 mmol), tetrahydrofuran (100 mL), methanol (20 mL), and water (30 mL) was stirred overnight. The mixture was poured into water (200 mL) and the whole was acidified with 2 N HCl. The mixture was then extracted with ethyl acetate (150 mL) and the organic layer was washed with brine (100 mL), dried over sodium sulfate, and filtered. Evaporation of the solvents and drying under reduced pressure gave 2-((2-bromo-4-(1-tert-butoxy-1-oxopropan-2-yl)phenylamino)methyl)benzoic acid (4.40 g, 99%) as a thick oil: 1H NMR (500 MHz, CDCl3) δ 8.14 (d, J=7.6 Hz, 1H), 7.53 (m, 2H), 7.38 (m, 2H), 7.03 (dd, J=8.4,2.0 Hz, 1H), 6.53 (d, J=8.0 Hz, 1H), 4.80 (s, 2H), 3.44 (q, J=7.1 Hz, 1H), 1.39 (s, 9H), 1.38 (d, J=7.2 Hz, 3H).

reactant | methyl 2-((2-bromo-4-(1-tert-butoxy-1-oxopropan-2-yl)phenylamino)methyl)benzoate | 10.2 mmol, 4.57 g | BrC1=C(C=CC(=C1)C(C(=O)OC(C)(C)C)C)NCC1=C(C(=O)OC)C=CC=C1 | C22H26BrNO4
reactant | lithium hydroxide | 30.6 mmol, 0.733 g | [OH-].[Li+]
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | HCl | 2 N | Cl | ClH
solvent | water | 200 mL | O | H2O
solvent | water | 30 mL | O | H2O
solvent | methanol | 20 mL | CO | CH4O
product | 2-((2-bromo-4-(1-tert-butoxy-1-oxopropan-2-yl)phenylamino)methyl)benzoic acid | 4.40 g, 99% | BrC1=C(C=CC(=C1)C(C(=O)OC(C)(C)C)C)NCC1=C(C(=O)O)C=CC=C1 | C21H24BrNO4
